Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
 Abdominal Pain, Nausea/vomiting, PO intolerance
 
Major Surgical or Invasive Procedure:
G-tube exchange and upsizing, ___
G-tube exchange and replacement ___
___ line ___

 
History of Present Illness:
Ms. ___ is a ___ year old woman, with past history of Child's 
Class C-ETOH Cirrhosis c/b ascites, HE, SBP, and HRS, Roux-en-Y 
Gastric Bypass c/b recurrent anastamotic stricutres requiring 
multiple endoscopic dilations, prior history of GJ anastamotic 
performation in setting of endoscopic GJ stricture dilation 
requiring ex-lap, GJ take down, G-G anastaomosis. Patient was 
previously discharged 3 days ago, for acute encephalopathy, 
nausea/vomiting s/p venting G-tube placement, fevers, 
hyponatremia, and now being re-admitted for inability to 
tolerate PO intake.  
 Patient was recently hospitalized from ___ to ___. 
Patient was initially admitted for worsening encephalopathy and 
nausea/vomiting. Patient was initially found to have repetitive 
movements of non-responsiveness and thought to be ___ to 
seizures and encephalopathy. EEG done did not show frank seizure 
activity, and patient restarted on levitraectam and home 
lactulose and rifaxamin. Patient also was educated on venting 
her G-tube, with inability to drainage at home. Patient has 
intermittent nausea/vomiting despite G-tube drainage. Patient 
had scheduled G-tube flushes, and was given dronabinol. Patient 
did have a fever thought to be ___ to aspiration pneumonitis, 
and was given ceftazidime/fagyl for 48 hours. Patient also found 
to have acute anemia, and was given 1 unit PRBC, and maintained 
on pantoprazole BID. Also found to have hyponatremia, which 
improved with 50 gram albumin. and worsened with Lasix. Patient 
was continued on spirionolactone, furosemide, and Bactrim daily 
for SBP prophylaxis, and midodrine 5 mg TID, and thiamine, 
folate, multivitamin.  
 She then went home, and patient reports that she continued to 
have intermittent nausea/vomiting. She then re-presented to the 
ED on ___ after presenting to an OSH on ___ with CT scan, and 
found to have a clogged J-tube and ? SBO/ileus. Patient then 
underwent replacement of the tube with a new ___. Patient was 
then found to have some surrounding erythema round the site. 
Patient states that her last bowel movement was on ___, and is 
passing flatus. She states that the J-tube has been working, and 
because of worsening nausea/vomiting, she has stopped 
administering tube feeds, and has emesis that is tube feed 
related. She has been applying some anti-fungal cream to the 
surrounding site around the tube. No fevers. In the ED, ___ was 
consulted, and patient had her J-tube disc tightened and sutured 
to prevent slipping, and new dressings applied.  
 Notably, patient was recently hospitalized for several times 
over the past few months and has been dealing with significant 
GI motility issues. Patient was hospitalized from 
___ for nausea/vomiting, and low grade fevers, 
at the time thought to be ___ to GJ anastamotic stricture, and 
underwent EGD with balloon dilation. Patient then was diagnosed 
with perforated gastrojejnuostomy, for which she went for 
ex-lap, GJ take down, and gastrogastrostomy on ___. 
Post-operatively, she has been dealing with refractory 
nausea/vomiting, with UGI series showing slowed transit through 
system. Patient had malpositioned J-tube replaced on ___, 
and EGD with small bowl eneteroscopy showing erythema and 
congestion of the stomach and small bowel enteroscopy. Patient 
was trialed on octreotide for pro motility without signficnat 
effect, erythrmocycin and ultimately improved and was tolerating 
TF through perc GJ.  
 In the ED, initial vitals were 0 98.6 111 106/57 18 100% RA  
 Labs were notable for WBC 12.4, Hgb 8.3, Hct 24.8, Platelet 125 
(MCV 108), PMN 87%. Sodium 128, K 4.4, Cl 92, Bicarb 21, BUN 18, 
Cr 0.8. Glucose 114.  
 ALT 13, AST 14, AP 94, Lipase 23, T-bili 5.7, Albumin 3.2.  
 Serum Tox: Negative.  
 Urine Tox: Positive for Opiates.  
 Imaging was notable for ileus. Minimally changed dilation of 
both large and small bowel loops without discrete transition 
point, consistent with ileus.  
 Patient was given:  
 ___ 16:40 IV Ondansetron 4 mg  
 Transfer vitals were: 0 97.3 107 107/59 22 95% RA  
 Upon arrival to the floor, patient reports nausea.  
 
 ROS:  
 (+)  
 (-) Denies fever, chills, night sweats, headache, vision  
 changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  

 
Past Medical History:
- Obesity  
 - s/p gastric bypass c/b stricture of the gastrojejunal  
 anastomosis and internal hernia causing SBO s/p multiple  
 endoscopic dilations c/b perforation (as detailed below)  
 - SBO as above  
 - Exploratory laparotomy, takedown old gastrojejunostomy,  
 gastrogastrostomy, feeding jejunostomy (___ ___ for  
 perforated gastrojejunal anastomosis site with reopening of  
 recent laparotomy and closure of gastrostomy (___ ___  
 - ETOH cirrhosis complicated by ascites, HE, SBP  
 - Epileptiform discharges concerning for possible seizure in  
 setting of altered mental status, started on keppra ___  
 - numerous hospitalizations for abdominal pain, requiring  
 paracenteses  
 - depression/anxiety  
 - GERD  
 - hx of Cdiff  
 - IBS  
 - thrombocytopenia  
 - left ankle fusion  
 - Chronic fatigue syndrome  
 - Hypertriglyceridemia  
 - Hyponatremia  
 - Right breast lesions s/p U/S guided core biopsy on ___ -  
 pathology showing fibroadipose tissue with blood, fibrin, and  
 predominantly acute inflammatory cell infiltrate, karyorrhectic 
 
 debris, and scattered calcifications  

 
Social History:
___
Family History:
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema  

 
Physical Exam:
ADMISSION EXAM:
===============
 Weight: 200.8 lbs.  
 General: Fatigued appearing, weak voice. No acute distress.  
 HEENT: NC/AT. Scleral icterus, pale. PERRL. EOMI. OP clear.  
 Neck: Supple, no cervical lymphadenopathy appreciated.  
 Lungs: Diminished at the bases, no adventitial sounds.  
 Cardiac: RRR, S1, S2. No extra sounds heard.  
 Abdomen: Mildly distendended, surgical scars. Dressing fresh, 
with minimal erythema. Tube with bilious drainage.  
 Extremities: Warm well, perfused.  
 Neurologic: AAOx3. Mild asterixis. Able to follow commands 
grossly. Strength ___ throughout.  

DISCHARGE EXAM:
===============
Weight: 214.2 lbs.  
VS: 98.3 104/62 84 16 94 Ra     
General: chronically ill appearing, cachectic, NAD
HEENT: MMM 
Lungs: CTAB
Cardiac: RRR, III/VI systolic murmur loudest at LUSB
Abdomen: Distended, mildly tender throughout, especially in 
lower quadrants, hypoactive BS, no rebounding. vertical red 
wound on epigastric area.  Some granulation tissue and purulence 
around venting G tube insertion site, no expanding erythema or 
TTP.
Extremities: WWP, no ___.
Neurologic: AOx3, no asterixis 
 
Pertinent Results:
=============================
ADMISSION LABS
=============================
___ 12:50AM BLOOD WBC-8.5 RBC-2.25* Hgb-7.8* Hct-22.7* 
MCV-101* MCH-34.7* MCHC-34.4 RDW-24.6* RDWSD-89.0* Plt ___
___ 12:50AM BLOOD Neuts-78.6* Lymphs-13.4* Monos-7.3 
Eos-0.1* Baso-0.1 NRBC-0.4* Im ___ AbsNeut-6.65*# 
AbsLymp-1.13* AbsMono-0.62 AbsEos-0.01* AbsBaso-0.01
___ 12:50AM BLOOD ___ PTT-48.6* ___
___ 12:50AM BLOOD Plt ___
___ 12:50AM BLOOD Glucose-70 UreaN-8 Creat-0.5 Na-126* 
K-5.4* Cl-90* HCO3-24 AnGap-17
___ 12:50AM BLOOD ALT-13 AST-70* AlkPhos-68 TotBili-4.5*
___ 12:50AM BLOOD Albumin-2.9*
___ 01:16AM BLOOD Lactate-2.0 K-8.0*
==========================
DISCHARGE LABS
==========================

___ 05:15AM BLOOD WBC-5.8 RBC-2.06* Hgb-7.3* Hct-22.9* 
MCV-111* MCH-35.4* MCHC-31.9* RDW-23.0* RDWSD-90.3* Plt Ct-85*
___ 05:15AM BLOOD ___ PTT-46.1* ___
___ 03:50PM BLOOD Neuts-87.0* Lymphs-6.7* Monos-5.5 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.75*# AbsLymp-0.83* 
AbsMono-0.68 AbsEos-0.01* AbsBaso-0.02
___ 05:15AM BLOOD Glucose-82 UreaN-21* Creat-0.4 Na-136 
K-3.9 Cl-101 HCO3-21* AnGap-14
___ 05:15AM BLOOD ALT-18 AST-39 AlkPhos-79 TotBili-2.5*
___ 05:15AM BLOOD Calcium-8.5 Phos-4.0 Mg-1.8

=========================
IMAGING
=========================
CT abd/pelvis w/ contrast ___
1. Uniformly dilated small bowel loops without evidence of a 
transition point are grossly unchanged in appearance as compared 
to CT abdomen and pelvis ___.  There is distal passage 
of oral contrast into the cecum and ascending colon.  There is 
no evidence of a mechanical obstruction.  These findings are 
most compatible with an ileus.
2. Persistent moderate right-sided hydronephrosis without a 
cause is unchanged as compared to CT abdomen pelvis ___.
3. No intraabdominal drainable fluid collection.
4. Splenomegaly; cholelithiasis; appropriately positioned 
percutaneous
gastrostomy and jejunostomy catheters; diffuse anasarca are 
additional
findings.

KUB ___: 
No evidence of obstruction.

G/J TUBE CHECK ___: 
Appropriately positioned and functioning gastrostomy and 
jejunostomy tubes. 

KUB ___:   
Multiple dilated bowel loops, worrisome for small bowel 
obstruction. 

CT Abd/Pelvis ___: 1. Minimally changed dilation of both large 
and small bowel loops without a 
discrete transition point, most consistent with an ileus. 
2. Small volume ascites and moderate anasarca. 
3. Gallbladder sludge/cholelithiasis without acute 
cholecystitis. 
4. Splenomegaly. 
5. Slightly decreased loculated left pleural effusion. 

KUB ___: Supine and upright views of the abdomen pelvis 
provided.  Peg tube and gastrostomy tube again noted projecting 
over the left hemiabdomen.  An IUD projects over the pelvis.  
There is gaseous distension of the colon with multiple air-fluid 
levels noted.  No free air seen below the right 
hemidiaphragm.  Residual contrast is noted within the left upper 
abdomen 
likely within the proximal stomach.  Bony structures appear 
grossly intact.  
No free air is seen below the right hemidiaphragm. 

============================
MICROBIOLOGY
============================
No growth on any cultures
___ STOOL FECAL CULTURE-FINAL; CAMPYLOBACTER 
CULTURE-FINAL INPATIENT 
___ STOOL C. difficile DNA amplification 
assay-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 

 
Brief Hospital Course:
Key Information for Outpatient ___ yo female w/ PMHx 
significant for EtOH cirrhosis c/b ascites, HE, and SBP, and 
obesity s/p Roux-n-Y gastric bypass (___) c/b stricture of 
gastrojejunal anastomosis & internal hernia resulting in SBO s/p 
multiple endoscopic dilations. Course has been further c/b 
perforation requiring takedown of old gastrojejunostomy and 
gastrogastric anastomosis, s/p feeding jejunostomy (___) c/b 
N/V ___ ileus, s/p venting G-tube on ___. J-tube feeding was 
c/b multiple instances of intolerance despite short term bowel 
rest with slow re-initiation of feeds. Abdominal imaging c/w 
ileus on ___. Given suboptimal provision of enteral nutrition 
and PO intolerance, TPN started ___ for 100% energy and protein 
needs. TFs restarted on ___ at a very low rate (5cc/hr), which 
the patient appeared to be tolerating well. Plan to continue 
current nutritional plan to provide 100% nutrition via TPN and 
see outpatient provider for chronic dysmotility issues.

ACUTE ISSUES:
=============
# Nausea/Vomiting/Abdominal pain
The patient was admitted to the hospital unable to tolerate TFs 
due to severe nausea and vomiting, with copious output from 
venting G-tube. There was a concern for obstruction vs. slow 
motility. The patient had repeated studies during this 
hospitalization looking for a cause of her inability to tolerate 
PO. Multiple KUBs showed no obstruction but the patient 
continued to have a functional ileus. A percutaneous G/J tube 
check on ___ with contrast hand injection via the pre-existing 
gastrostomy and jejunostomy tubes demonstrated both tubes to be 
in appropriate positioning without evidence of obstruction. 
After discussion with motility specialists in GI, an MRI with 
small bowel follow through was ordered but could not be 
accomplished due to concerns that she would not be able to 
tolerate the PO contrast bolus. Also, per radiology 
recommendations, that was not a good study to assess motility of 
the bowels. A CT scan with contrast of her abdomen on ___ showed 
uniformly dilated small bowel loops without evidence of a 
transition point and no evidence of a mechanical obstruction. 
These findings are most compatible with an ileus. Given that the 
patient could not tolerate tube feeds, in order to offer 
nutrition the last resort was to place a PICC line on ___ and 
TPN was started ___. Trickle tube feeds at a rate of 5 cc/hr 
were restarted. Patient was continued on standing reglan to 10 
Q6.

# Nutrition - Patient was discharged on TPN and trickle tube 
feeds. 100% nutrition via TPN, tube feeds Osmolite 1.5 @ 5 
ml/hr. She will have folic acid, copper, zinc and thiamine 
supplements in TPN.

# Cellulitis - Patient developed purulence and erythema around 
the G-tube. NO fever or elevation in white count was noted. 
Doxycycline 100 mg twice a day was started on ___ and she will 
need to complete a course of 7 days until ___.

# EtOH CIRRHOSIS:
Childs C c/b ascites, HE, SBP, and HRS. MELD-Na score 22. 
Patient at this point has minimal ascites on examination. Not 
transplant candidate largely due to nutrition and complicated 
post-surgical problems. The patient was continued on lactulose 
and rifaximin. The diuretics were held in the setting of her ___ 
(which later on resolved), home furosemide 20mg qd was restarted 
by time of discharge. Midodrone 5 mg TID was continued, as well 
as TMP-SMX for SBP prophylaxis

# Anemia - Likely multifactorial given liver disease, poor 
nutrition, and chronic illness in general. The patient has been 
transfused prn with appropriate bump in H&H (5 total units 
PRBCs). There was no active concern for bleeding. Hemolysis labs 
were negative.

# ___ - Cr went from .8 as high as 1.7 during this 
hospitalization. There is likely some effect of prerenal state 
given increased output from venting G-tube, worsened iso chronic 
liver disease. After decreasing to baseline, Cr has been stable.

CHRONIC ISSUES:
===============
# H/o ROUX-EN-Y: Patient receiving zinc and copper 
supplementation through TPN with weekly monitoring of Cu levels.

# History of seizure: Continued levetiracetam 100 mg BID

# Depression: Continued escitalopram 20 mg daily

# History of alcohol abuse: Continued thiamine, folate, 
multivitamin

TRANSITIONAL ISSUES:
====================
- Weight at discharge: 97.16kg. Patient needs to continue to 
trend weights
- Cr at discharge: 0.4
- Diuretics at discharge: Furosemide 20mg PO daily
- H/H at discharge: 7.3/22.9. Patient required 5 units of blood 
transfusion during her admission. The anemia will need to be 
monitored on an outpatient basis, transfusions ordered prn. Last 
transfusion was ___.
- Patient currently has a J-tube for feeds/meds along with a 
venting G-tube, interventional radiology evaluated patient 
during this admission as above.
- Patient needs to continue with nutrition recommendations of 
100% nutrition via TPN, tube feeds Osmolite 1.5 @ 5 ml/hr. She 
will have folic acid, copper, zinc and thiamine supplements in 
TPN, has currently had weekly copper levels checked.
- Patient should have evaluation by outpatient GI motility (have 
called to set-up appointment with either Dr. ___, Dr. 
___ Dr. ___.
- CT abdomen and pelvis w/ contrast showed persistent moderate 
right-sided hydronephrosis without a cause, unchanged as 
compared to CT abdomen pelvis ___.
- Patient is very sensitive to changes in lactulose - 2 doses of 
lactulose were held during this admission and the patient became 
encephalopathic immediately.
- Low copper on ___ labs. ___ Cu labs were pending at time 
of discharge.
- Please continue to discuss transplant status with ongoing 
nutrition and GI motility issues
- Bowel regimen on discharge: Lactulose 30 mL Q6H, Senna 8.6 mg 
BID, Polyethylene Glycol 17 g DAILY, Bisacodyl 10 mg PR QHS:PRN 
constipation through J-tube
- QTc at discharge 479. Please continue to monitor QTc

- Code status: Full Code
- Contact info: ___ (parents) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. copper gluconate 4  mg oral Q12H 
2. Dronabinol 5 mg PO BID 
3. Esomeprazole 40 mg Other DAILY 
4. LevETIRAcetam Oral Solution 1000 mg PO BID 
5. Rifaximin 550 mg PO BID 
6. Spironolactone 25 mg PO DAILY 
7. Lactulose 30 mL PO TID 
8. Midodrine 5 mg PO TID 
9. Furosemide 40 mg PO DAILY 
10. Escitalopram Oxalate 20 mg PO DAILY 
11. FoLIC Acid 1 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
14. Thiamine 100 mg PO DAILY 
15. Zinc Sulfate 220 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth Q8 Disp #*90 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
3.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*11 Capsule Refills:*0 
4.  Hyoscyamine 0.125 mg SL QID PRN abdominal pain 
RX *hyoscyamine sulfate 0.125 mg 1 tablet(s) sublingually four 
times a day Disp #*120 Tablet Refills:*0 
5.  Lidocaine 5% Ointment 1 Appl TP BID:PRN Pain around g tube 
RX *lidocaine 5 % 1 Appl BID:PRN twice a day Disp #*60 Patch 
Refills:*0 
6.  Metoclopramide 10 mg PO Q6H 
RX *metoclopramide HCl 10 mg 1 by mouth every six (6) hours Disp 
#*120 Tablet Refills:*0 
7.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
9.  Senna 8.6 mg PO BID 
RX *sennosides [Natural Senna Laxative] 8.6 mg 1 mg by mouth 
twice a day Disp #*60 Tablet Refills:*0 
10.  Simethicone 40-80 mg PO QID:PRN gas pain 
RX *simethicone [Gas Relief] 40 mg/0.6 mL 0.6 mL by mouth four 
times a day Refills:*0 
11.  TraMADol 100 mg PO BID 
RX *tramadol 50 mg 2 tablet(s) by mouth twice a day Disp #*120 
Tablet Refills:*0 
12.  Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
13.  Lactulose 30 mL PO Q6H 
RX *lactulose 20 gram/30 mL 30 mL by mouth every six (6) hours 
Disp #*1000 Milliliter Refills:*0 
14.  Escitalopram Oxalate 20 mg PO DAILY 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
15.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
16.  LevETIRAcetam Oral Solution 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 
17.  Midodrine 5 mg PO TID 
RX *midodrine 5 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
18.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multi-Vitamin]  1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
19.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
20.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Sulfatrim] 200 mg-40 mg/5 mL 
20 mL by mouth daily Refills:*1 
21.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==================
Nausea/vomiting
Ileus 
Anemia
___

Secondary diagnosis:
==================== 
Malnutrition
Alcohol cirrhosis 
Seizures 
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

You were hospitalized for a small bowel obstruction in the 
setting of eating solid food at home. You were monitored and 
tube feeds were slowly restarted or stopped as needed based on 
what you were able to tolerate. 

Initially you continued to receive tube feeds through your 
J-tube, and you had your G-tube upsized with some improvement in 
your symptoms. However, you required G-tube venting and suction 
intermittently because of recurrent vomiting and ileus (poor 
movement in the bowels). We went down on how fast the tube feeds 
were going into your J-tube but you still did not tolerate them 
and that caused you more nausea and vomiting, as well a copious 
output from venting G-tube. So we need to stop them completely 
to prevent your symptoms. In order to give you nutrition we 
started TPN, which is nutrition that goes directly into your 
blood. That made you feel better and improved your nausea and 
vomiting. 

Moving forward you will need to continue to receive TPN, and 
trickle tube feeds (tube feeds at a very slow rate in order to 
keep your bowels working). You need to be able to take care of 
the G-tube alone at home since periodically you will need to 
vent it. You were taught by our nurses how to do that. You will 
also need to learn how to manage your TPN at home and follow the 
lessons your were taught in the hospital by our staff.

While you were hospitalized multiple teams of doctors saw ___, 
including our surgery and motility colleagues, who recommended 
special studies. These studies did not show any obstruction in 
your bowels. We believe that your intolerance to oral food is 
due to abnormal motility of your bowels. We has contacted one of 
our motility specialists for you to see as an outpatient.  If 
you are not called over the next several days please call 
___ to schedule an appointment with either 
Dr. ___, Dr. ___ Dr. ___.

Moving forward, you will continue to receive TPN nutrition, 
trickle tube feeds and you will need to take care of you G-tube 
and TPN nutrition at home. Also, you should not eat anything by 
mouth because that will make you sick and you will most probably 
come back to the hospital.  All of your medications should be 
administered through your feeding tube.

You developed some pus and redness around the G-tube. 
Doxycycline 100mg twice a day was started on ___ to prevent any 
skin infection, and you will need to complete a course of 7 days 
until ___.

Please try to wean down tramadol in the future. Also, you can go 
up on the tube feeds rate, but if you do this, you need to go up 
very slowly and in consultation with your motility doctor since 
you are very sensitive to this change and it may cause nausea 
and vomiting otherwise.

Please follow up with your doctors as listed below.  If you do 
note hear from Dr. ___ over the next several days, 
please call ___ to schedule an appointment.  

It was a pleasure taking care of you and we wish you the best! 

Sincerely,
Your ___ care team 
 
Followup Instructions:
___